US07371754B2
Step B: 2-[(tetrahydro-2H-pyran-2-yloxy)methyl]benzyl 4-methylbenzenesulfonate
A solution of {2-[(tetrahydro-2H-pyran-2-yloxy)methyl]phenyl}methanol (5.52 g, 24.84 mmol) in CH2Cl2 (100 ml) was cooled to 0° C. and treated with Et3N (6.92 ml, 49.68 mmol) followed by the addition of Ts2O (8.9 g, 27.33 mmol). The reaction stirred at 0° C. for 3.5 hours. The mixture was diluted with sat. NH4Cl and extracted with CH2Cl12 (2×). The combined organic solutions were washed with water, dried over Na2SO4 and concentrated in vacuo. The crude product was purified by normal phase chromatography (10% EtOAc/hexanes—20%) to give a light brown oil (7.36 g).

reactant | {2-[(tetrahydro-2H-pyran-2-yloxy)methyl]phenyl}methanol | 24.84 mmol, 5.52 g | O1C(CCCC1)OCC1=C(C=CC=C1)CO | C13H18O3
reactant | Et3N | 49.68 mmol, 6.92 ml | CCN(CC)CC | C6H15N
reactant | Ts2O | 27.33 mmol, 8.9 g | O(S(=O)(=O)C1=CC=C(C)C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C14H14O5S2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | NH4Cl | [NH4+].[Cl-]
product | 2-[(tetrahydro-2H-pyran-2-yloxy)methyl]benzyl 4-methylbenzenesulfonate | 7.36 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1=C(C=CC=C1)COC1OCCCC1 | C20H24O5S
